* Qucs 1.1.0 C:/Projects/rlc2ss/qucs/diode.sch
.INCLUDE "C:/Programs/qucs_s_win64/share/qucs-s/xspice_cmlib/include/ngspice_mathfunc.inc"
* Qucs 1.1.0  C:/Projects/rlc2ss/qucs/diode.sch
L1 _net0 _net1  1M 
R3 N_D2_neg _net0  1K
V1 N_D3_neg 0 DC 1
S1 N_D3_neg  N_D3_pos  _net2  _net3 
D2 N_D2_pos  N_D2_neg 
R2 0 N_D2_pos  1K
D3 N_D3_pos  N_D3_neg 
R1 N_D3_pos N_D2_neg  1K
V_internal N_D2_pos _net1 DC 1
R4 0 _net4  1
L2 _net4 N_D3_neg  1E-2 
.control
set filetype=ascii
op
print all > spice4qucs.cir.dc_op
destroy all
quit
.endc
.end
